US09328067B2
3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide
Following General Procedure R, the title compound (388 mg, 80%) was prepared from 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid (411 mg, 0.77 mmol), 2-(pyrrolidin-1-yl)ethanamine (0.15 ml, 1.15 mmol), EDC (294 mg, 1.53 mmol) and DMAP (cat.) in DMF (10 ml).

reactant | 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid | 0.77 mmol, 411 mg | ClC1=CC(=C(C=C1)SCC=1C=C(C(=O)O)C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO4S2
reactant | 2-(pyrrolidin-1-yl)ethanamine | 1.15 mmol, 0.15 ml | N1(CCCC1)CCN | C6H14N2
reactant | EDC | 1.53 mmol, 294 mg
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide | 388 mg, 80% | ClC1=CC(=C(C=C1)SCC=1C=C(C(=O)NCCN2CCCC2)C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C27H26Cl2F3N3O3S2
